US07223767B2
4-Chloro-2-methyl-8,8-dipropyl-5,6,7,8-tetrahydroquinazoline (114 mg, 0.42 mmol), 2,4-dichloroaniline (76 mg, 0.47 mmol), and 4-toluenesulfonic acid hydrate (203 mg, 1.06 mmol) were combined in toluene (4 mL) and heated in an oil bath at 100° for 28 hrs. The mixture was cooled to room temp, diluted with EtOAc (30 mL), washed with sat. NaHCO3 solution, brine and dried over MgSO4. Evaporation afforded 262 mg of crude product which was purified by flash chromatography and eluted with CH2Cl2:hexane (1:1). This afforded 151 mg (90%) as a viscous liquid which crystallized on standing. This material was dissolved in EtOAc (1.5 mL) and then treated all at once with 2N HCl in Et2O (0.40 mL, 2 eq). The resulting white solid was filtered off, washed with a little Et2O and dried to afford 139 mg of (2,4-dichlorophenyl)-(2-methyl-8,8-dipropyl-5,6,7,8-tetrahydroquinazolin-4-yl)amine as a hydrochloride salt. Mp 238.3°−243.9° C. MS (ES+) 392 (M+H).

reactant | 4-Chloro-2-methyl-8,8-dipropyl-5,6,7,8-tetrahydroquinazoline | 0.42 mmol, 114 mg | ClC1=NC(=NC=2C(CCCC12)(CCC)CCC)C | C15H23ClN2
reactant | 2,4-dichloroaniline | 0.47 mmol, 76 mg | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | 4-toluenesulfonic acid hydrate | 1.06 mmol, 203 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | HCl | 2N | Cl | ClH
reactant | Et2O | 0.40 mL, 2 eq | CCOCC | C4H10O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (2,4-dichlorophenyl)-(2-methyl-8,8-dipropyl-5,6,7,8-tetrahydroquinazolin-4-yl)amine | 139 mg | ClC1=C(C=CC(=C1)Cl)NC1=NC(=NC=2C(CCCC12)(CCC)CCC)C | C21H27Cl2N3
